US07001900B2
A solution of 7-methoxy-2-naphthyl trifluoromethanesulfonate (4.95 g, 16.1 mmol) in DMF (20 mL) is degassed by repeatedly evacuating the flask then flushing with N2. Zinc cyanide (1.13 g, 9.7 mmol) is added followed by Pd(PPh3)4 (930 mg, 0.81 mmol). The resulting mixture is again degassed and heated to 80° C. for 3 hours. The reaction is allowed to cool, poured into water and washed twice with toluene and once with CH2Cl2. The combined organic extracts are dried (Na2SO4), filtered and concentrated. The resulting material is purified by column chromatography (step gradient, 25–50% CH2Cl2 in hexanes) to give 7-methoxy-2-naphthonitrile as a white solid (2.36 g, 80%). HRMS (EI) calculated for C12H9NO: 183.0684, found 183.0684.

reactant | 7-methoxy-2-naphthyl trifluoromethanesulfonate | 16.1 mmol, 4.95 g | FC(S(=O)(=O)OC1=CC2=CC(=CC=C2C=C1)OC)(F)F | C12H9F3O4S
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 9.7 mmol, 1.13 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.81 mmol, 930 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-methoxy-2-naphthonitrile | 2.36 g, 80% | COC1=CC=C2C=CC(=CC2=C1)C#N | C12H9NO
